US04388463
To a mixture of 1.5 g (5.18 mmol) 4-methoxymorphinen-6-one.1 H2O, 1.3 g (9.41 mmol) anhydrous K2CO3 and 10 ml dry DMF were added dropwise a solution of 0.29 ml (5.31 mmol) cyclopropanecarboxylic acid chloride in 5 ml dry DMF during 10 min. at room temperature. This mixture was stirred at room temperature for 1 h, then poured on 50 ml ice water and extracted with ether. The organic layer was extracted with 2 N HCl, water and brine, dried and evaporated to give an oil, which was crystallized with ether/n-hexane. To 1.5 g (85%) N-cyclopropylcarbonyl-4-methoxymorphinan-6-one, m.p. 144°-147°, [α]D26 -210.0° (c 1.04, CHCl3), were obtained.

reactant | 4-methoxymorphinen-6-one | 5.18 mmol, 1.5 g | COC1=CC=CC=2C[C@@H]3[C@@H]4C=CC(C[C@@]4(C12)CCN3)=O | C17H19NO2
reactant | H2O | O | H2O
reactant | K2CO3 | 9.41 mmol, 1.3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclopropanecarboxylic acid chloride | 5.31 mmol, 0.29 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-cyclopropylcarbonyl-4-methoxymorphinan-6-one | 1.5 g, 85% | C1(CC1)C(=O)N1[C@H]2[C@@H]3CCC(C[C@@]3(C=3C(=CC=CC3C2)OC)CC1)=O | C21H25NO3
